US08008298B2
DMSO (1.5 mL) was added to a mixture of copper iodide (10.6 mg; 0.056 mmol), d,l-proline (12.8 mg; 0.11 mmol), potassium carbonate (113 mg; 0.81 mmol), and 1-[2-(3-Iodo-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one (150 mg; 0.37 mmol). Isopropyl amine (0.315 mL; 0.219 g, 3.7 mmol) was added and the resulting mixture was stirred at 110° C. (oil bath) for 24 hrs. The reaction mixture was quenched with water and extracted 3 times with EtOAc. The organic layers were combined, washed with brine, dried over MgSO4, and concentrated to give a yellow oil. Preparative HPLC afforded 6.1 mg (5% yield) of 1-[2-(3-Isopropylamino-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one as a yellow solid

reactant | d,l-proline | 0.11 mmol, 12.8 mg | N1C(C(=O)O)CCC1 | C5H9NO2
reactant | potassium carbonate | 0.81 mmol, 113 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-[2-(3-Iodo-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.37 mmol, 150 mg | IC=1C=C(C=CC1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C17H16IN3O
reactant | Isopropyl amine | 3.7 mmol, 0.315 mL, 0.219 g | C(C)(C)N | C3H9N
catalyst | copper iodide | 0.056 mmol, 10.6 mg | [Cu](I)I
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | 1-[2-(3-Isopropylamino-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 6.1 mg, 5% yield | C(C)(C)NC=1C=C(C=CC1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C20H24N4O
